US07462644B2
(2S)-2-Ethoxy-3-[4-(2-{ethyl[4-(trifluoromethyl)benzyl]amino}-2-oxoethoxy)phenyl]propanoic Acid
To a solution of ethyl(2S)-2-ethoxy-3-[4-(2-{ethyl[4-(trifluoromethyl)benzyl]amino}-2-oxoethoxy)phenyl]propanoate ((0.308 g, 0.64 mmol) in acetonitrile (32 mL) was added aqueous 0.10 M LiOH (16 mL) and the solution was stirred at room temperature overnight. After neutralisation with 5% HCl, the solvent volume was reduced in vacuo and the remaining aqueous phase was diluted with water and aqueous 0.10 M LiOH (to a total volume of 100 mL, pH˜10) and washed with diethyl ether (2×100 mL). The aqueous phase was acidified with 5% HCl and extracted with ethyl acetate (3×100 mL). The combined organic phase was washed with 5% HCl (100 mL) and brine (100 mL), dried over Na2SO4, and concentrated in vacuo to afford 0.279 g (96%) of a colourless oil.

reactant | ethyl(2S)-2-ethoxy-3-[4-(2-{ethyl[4-(trifluoromethyl)benzyl]amino}-2-oxoethoxy)phenyl]propanoate | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)OCC(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC | C25H30F3NO5
reactant | HCl | Cl | ClH
solvent | acetonitrile | 32 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | LiOH | 0.10 M | [Li+].[OH-]
solvent | LiOH | 0.10 M, 16 mL | [Li+].[OH-]
product | (2S)-2-Ethoxy-3-[4-(2-{ethyl[4-(trifluoromethyl)benzyl]amino}-2-oxoethoxy)phenyl]propanoic Acid | 0.279 g, 96% | C(C)O[C@H](C(=O)O)CC1=CC=C(C=C1)OCC(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC | C23H26F3NO5
